US07399759B2
tert-Butyl 3-(2-methyl-4-pyridyl)propanoate
tert-Butyl (E)-3-(2-methyl-4-pyridyl)-2-propenoate (4.4 g, 20 mmol) was dissolved in methanol (100 ml), and 10% palladium-carbon (0.45 g) was added thereto. The mixture was stirred under hydrogen atmosphere for 3 hrs. Palladium-carbon was filtered off, and the filtrate was concentrated to give the titled compound (4.4 g, 99%).

reactant | tert-Butyl (E)-3-(2-methyl-4-pyridyl)-2-propenoate | 20 mmol, 4.4 g | CC1=NC=CC(=C1)/C=C/C(=O)OC(C)(C)C | C13H17NO2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | 0.45 g | [C].[Pd]
product | tert-Butyl 3-(2-methyl-4-pyridyl)propanoate | 4.4 g, 99% | CC1=NC=CC(=C1)CCC(=O)OC(C)(C)C | C13H19NO2
